US08138197B2
3-Pyrrolidin-1-yl-5-(tetrazol-5-yl)benzoic acid
Aqueous 2 N sodium hydroxide solution (1.26 mL) was added to an MeOH (5 mL) solution of methyl 3-pyrrolidin-1-yl-5-(tetrazol-5-yl)benzoate (35.6 mg), and stirred at 50° C. for 2 hours and 30 minutes. With cooling with ice, 2 N hydrochloric acid (2.52 mL) and water were added to it, and the formed precipitate was taken out through filtration, washed with water and dried to obtain the title compound as a yellow powder.

reactant | sodium hydroxide | 2 N, 1.26 mL | [OH-].[Na+]
reactant | MeOH | 5 mL | CO | CH4O
reactant | methyl 3-pyrrolidin-1-yl-5-(tetrazol-5-yl)benzoate | 35.6 mg | N1(CCCC1)C=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1 | C13H15N5O2
reactant | hydrochloric acid | 2 N, 2.52 mL | Cl | ClH
solvent | water | O | H2O
product | 3-Pyrrolidin-1-yl-5-(tetrazol-5-yl)benzoic acid | N1(CCCC1)C=1C=C(C(=O)O)C=C(C1)C1=NN=NN1 | C12H13N5O2
